US05998433
c) Synthesis of N,N-diethyl-[6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Diethyl-[6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.423 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. This mixture was concentrated to yield the desired product.

reactant | N,N-Diethyl-[6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.423 g | C(C)N(CC)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=CC=CC=C2)=O)=O)O1 | C26H28N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | N,N-diethyl-[6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.C(C)N(CC)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=CC=CC=C2)=O)=O)O1 | InChI=1S/C26H28N2O3.ClH/c1-3-27(4-2)17-23-16-22-14-15-28(18-24(22)31-23)26(30)21-12-10-20(11-13-21)25(29)19-8-6-5-7-9-19;/h5-13,16H,3-4,14-15,17-18H2,1-2H3;1H
